2142-06-21 04:03:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   49W worsening confusion, seen in PCP office where BP was low. Has spent
   majority of time in bed over past week, unable to walk, also pain in
   legs and incontinent.
   In ER, hypotensive, given 5L IVF and started on levophed. Head CT
   unremarkable. RUQ u/s without stones though distended GB and duct.
   Given antibiotics.
   In MICU complained of LE pain.
   History obtained from housestaff
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HIV CD4 450, neg VL [**5-30**]
   hepC, EtOH abuse - cirrhosis
   lumbar spine stenosis
   HIV neuropathy
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-21**] 04:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 61 (61 - 66) bpm
   BP: 114/67(79) {114/67(79) - 121/67(81)} mmHg
   RR: 12 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   HEENT unremarkable
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Abdominal: Soft, Non-tender
   Back
 inconsistent tenderness throughout  spine
   Extremities: Right: 1+, Left: 1+ edema
   Musculoskeletal: tender lumbar spine
   Skin:  Not assessed
   Neurologic: Responds to simple commands, sleepy, arousable, LLE
   somewhat hyperreflexive
   Labs / Radiology
   130
   2.3
   129
   33
   9
        [image002.jpg]
   Other labs: PT / PTT / INR://1.8, ALT / AST:/92, Alk Phos / T Bili:/7.2
   Imaging: RUQ u/sdilated GB and duct
   head CT no acute changes
   CXR unremarkable
   Assessment and Plan
   leg pain, incontinence, spinal tenderness -  will get MR though suspect
   chronic issue
   hypotension
 suspect hypovolemia due to poor POs and cirrhosis, will
   continue IVF and wean levophed. Also complete infection work-up,
   continue empiric antibiotics for now
   renal failure
 likely related to hypovolemia and hypotension, cont
   IVF, consider hepatorenal treatment
   hyponatremia
 follow, IVF
   cirrhosis/encephalopathy
 cont lactulose, rifaximin
   dilated duct/GB
 consider eventual MRCP
   ICU Care
   Nutrition: NPO until awakens
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-6-21**] 02:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition :  ICU
   Total time spent: 37

2142-06-21 10:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   admitted to MICU.
   Remains on levophed.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-6-21**] 08:00 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Other medications:
   lamivudine, HAART, vanco, levophed, lactulose, wellbutrin (held), SQH,
   rifaxamin, thiamine IV, folate, b12, pip/tazo x 1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-21**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 61 (59 - 66) bpm
   BP: 101/53(65) {87/51(61) - 121/67(81)} mmHg
   RR: 11 (11 - 17) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 11 (11 - 12)mmHg
   Total In:
                                                                  6,302 mL
   PO:
   TF:
   IVF:
                                                                  1,302 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    820 mL
   Urine:
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,482 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   147 K/uL
   75 mg/dL
   1.6 mg/dL
   21 mEq/L
   5.0 mEq/L
   27 mg/dL
   109 mEq/L
   135 mEq/L
   30.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2142-6-21**]  06:26 AM
   WBC
   8.0
   Hct
   30.9
   Plt
   147
   Cr
   1.6
   Glucose
   75
   Other labs: PT / PTT / INR:18.8/40.4/1.7, ALT / AST:37/80, Alk Phos / T
   Bili:124/6.4, Differential-Neuts:64.8 %, Lymph:22.4 %, Mono:7.8 %,
   Eos:4.5 %, Ca++:8.4 mg/dL, Mg++:1.3 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR without infiltrate
   Assessment and Plan
   49-year-old woman with shock, altered mental status, renal failure, and
   worsening hepatic failure.  Etiology of shock is not completely clear:
   hypovolemia, sepsis, and adrenal insufficiency.
   Source of infection unclear
   It is actually not clear that there is infection, but she is very high
   risk.
          Consult Dr. [**Last Name (STitle) 1912**] / ID
          Cover for meningitis and staph
 vanco, amp, cefepime,
   acyclovir
          Spine MRI
          After spine MRI, LP under cover of vitamin K (give now) and
   FFP
          Consider CMV viremia measurement
          Appreciate surgery and neurosurgery
s help
   Shock
          Aggressive trial of volume repletion
          [**Last Name (un) 1398**] stim test.  If delayed, provide empiric steroid rx.
   (Prevalence adrenal insufficiency ~40+% in this population
 see Marik
   Crit Care Med. [**2134**] [**Month (only) **];30(6):1267-73)
          If nondiagnostic
 art line
   Encephalopathy
          Broad ddx including above, as well as liver
   Acute renal failure
          Improving
 likely hemodynamic
   ?spinal process
          Appreciate neurosurg
s help
          Spinal MRI this morning
   HIV
          ID consult
   HCV and alcoholic cirrhosis
          Lactulose, rifax
          Follow clinically for alcohol withdrawal
          B12, folate, thiamine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-6-21**] 02:59 AM
   18 Gauge - [**2142-6-21**] 06:55 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: add H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Met with son and daughter and reviewed current issues and critical
   status, as well as the plan for today.  All questions answered.
   20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2142-6-21**] 12:32 ------

2142-06-22 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per ID recs: d/c'd Zosyn, Amp; started Flagyll with Vanc/Cef/Acyclovir
   and increased Vanc to Q12H at 750 per ID and pharmacy with plan to
   narrow after LP
   -increased indirect bili; so sent haptoglobin, smear, LDH, direct
   bili-> hapto <20, needs lysis workup
   -per neurosurg, added head MRI, still had not gone
on schedule for 9am
   -PCP previous note with actually similar UMN findings
   -lots of IVF; 4L during day, 2L at night.-> weaned off pressors
   -cortisol at 9; given second dose of dexameth; stim test nl
   -s/w brother who says pt. on many pain meds at home and has decreased
   MS in the past from these meds; though he is not HCP, pt.'s son is
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-6-21**] 08:00 AM
   Cefipime - [**2142-6-21**] 11:00 AM
   Ampicillin - [**2142-6-21**] 04:00 PM
   Vancomycin - [**2142-6-21**] 09:46 PM
   Acyclovir - [**2142-6-22**] 01:20 AM
   Metronidazole - [**2142-6-22**] 03:06 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-6-21**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2142-6-21**] 09:02 PM
   Other medications:
   1000 mL NS 4. 1000 mL NS 5. 1000 mL NS 6. Acyclovir 7. Atazanavir 8.
   BuPROPion 9. CefePIME
   10. CefePIME 11. Cosyntropin 12. Cyanocobalamin 13. Dexamethasone 14.
   Dexamethasone 15. Famotidine
   16. FoLIC Acid 17. Heparin 18. Lactulose 19. LaMIVudine 20. Lorazepam
   21. Magnesium Sulfate 22. MetRONIDAZOLE (FLagyl)
   23. Norepinephrine 24. Phytonadione 25. Raltegravir 26. Rifaximin 27.
   RiTONAvir 28. Sodium Chloride 0.9% Flush
   29. Sodium Chloride 0.9% Flush 30. Thiamine 31. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-22**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 55 (54 - 65) bpm
   BP: 90/52(62) {85/43(48) - 115/66(76)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
    CVP: 11 (10 - 16)mmHg
   Total In:
                                                                 12,383 mL
                                                                  1,384 mL
   PO:
   TF:
   IVF:
                                                                  7,383 mL
                                                                  1,294 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    325 mL
   Urine:
                                                                  2,335 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,048 mL
                                                                  1,059 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   10.6 g/dL
   146 mg/dL
   1.1 mg/dL
   17 mEq/L
   4.9 mEq/L
   19 mg/dL
   114 mEq/L
   137 mEq/L
   33.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2142-6-21**]  06:26 AM
                             [**2142-6-21**]  03:00 PM
                             [**2142-6-21**]  05:15 PM
                             [**2142-6-21**]  10:24 PM
                             [**2142-6-22**]  02:52 AM
   WBC
   8.0
   6.9
   Hct
   30.9
   33.3
   Plt
   147
   114
   Cr
   1.6
   1.4
   1.3
   1.2
   1.1
   Glucose
   75
   109
   98
   132
   146
   Other labs: PT / PTT / INR:18.7/49.2/1.7, CK / CKMB / Troponin-T:90//,
   ALT / AST:33/61, Alk Phos / T Bili:111/7.0, Differential-Neuts:97.0 %,
   Band:0.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:198 mg/dL,
   Albumin:2.2 g/dL, LDH:279 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Fibrinogen 198; Hapto <20, LDH 287; Cortisol post stim 18.2, 21.9
   Alb 2.2
   Final CXR [**6-21**]
   As compared to the previous radiograph, a nasogastric tube has been
   placed. The tube could be advanced by 5 cm, as its tip projects over
   the
   proximal parts of the stomach. The course and position of the right
   central
   venous access line is unchanged. Unchanged appearance of the left lung,
   the
   right lung is better transparent than on the previous examination. The
   size
   and shape of the cardiac silhouette are unchanged. There is no evidence
   of
   newly occurred focal parenchymal opacities suggesting pneumonia.
   Blood and urine ctxs [**6-20**] -23 pending
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   49-year-old woman with shock, altered mental status, renal failure, and
   worsening hepatic failure.  Etiology of shock is not completely clear:
   hypovolemia, sepsis.  Now off pressors.
   Source of infection unclear
   It is actually not clear that there is infection, but she is very high
   risk.
          ID recs Vanc/Cef/Acyclovir/Flagyll, stopped Amp/Zosyn;
   increase Cef to Q8 and Acyyclovir to Q8 per pharm
          spine (added c-spine per radiology) and head MRI,
   .          now that pt. is more alert, discuss and examine her later
   but likely this level of improvement would not be seen with meningitis
   so will probably not do LP; if done, would need FFP; confirm with ID
   how this would change her meds.
          Appreciate surgery and neurosurgery
s help
   Shock
          Aggressive trial of volume repletion, now stable off of
   pressures
          [**Last Name (un) 1398**] stim test negative (though unclear if this was adequate
   response for her given her current stress level); if becomes
   hypotensive-> try steroids
   .          concern for drug overdose given brother
s history however
   neg tox at admission
   Anemia
   .          By labs appears lysis, -[**Last Name **] problem so liked acquired:
   immune (drug, auto), infxn (malaria, babesia), entrapment
   (hyperspleen); given increase ldh, decrease in hapto more likely
   intravasc and not from spleen
   -f/u blood smear
   -sent thin and thick smear; further work-up depending on amount of
   schistocytes
   Encephalopathy: improving
          Broad ddx including above, as well as liver
   Acute renal failure
          Improving
 likely hemodynamic
   ?spinal process
          Appreciate neurosurg
s help
          Spinal MRI this morning
   .          confirm fentanyl patch with history of SS with PCP given
   possible interactions with HIV meds
   HIV
          ID consult- cont ARV, space H2B 12 hours apart
   HCV and alcoholic cirrhosis
          Lactulose, rifax
          Follow clinically for alcohol withdrawal
          B12, folate, thiamine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-6-21**] 02:59 AM
   18 Gauge - [**2142-6-21**] 06:55 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: h2b
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending MRI results

2142-06-23 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2142-6-22**] 09:30 AM
   MRI negative
   ID recs in:no LP
   Doweico emailed, not yet responded about pain meds
   Thick/Thin ordered
   Transplant service following, will f/u hepatology recs ***
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-6-21**] 08:00 AM
   Ampicillin - [**2142-6-21**] 04:00 PM
   Acyclovir - [**2142-6-22**] 02:00 PM
   Vancomycin - [**2142-6-22**] 08:00 PM
   Cefipime - [**2142-6-23**] 04:00 AM
   Metronidazole - [**2142-6-23**] 04:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-6-22**] 08:02 AM
   Famotidine (Pepcid) - [**2142-6-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-23**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 57 (54 - 82) bpm
   BP: 104/54(66) {76/35(49) - 117/94(107)} mmHg
   RR: 16 (11 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 25 (12 - 25)mmHg
   Total In:
                                                                  5,225 mL
                                                                    346 mL
   PO:
                                                                    520 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,315 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    405 mL
   Urine:
                                                                  1,120 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,105 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   102 K/uL
   9.2 g/dL
   107 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.7 mEq/L
   20 mg/dL
   118 mEq/L
   141 mEq/L
   29.1 %
   13.8 K/uL
        [image002.jpg]
                             [**2142-6-21**]  06:26 AM
                             [**2142-6-21**]  03:00 PM
                             [**2142-6-21**]  05:15 PM
                             [**2142-6-21**]  10:24 PM
                             [**2142-6-22**]  02:52 AM
                             [**2142-6-23**]  04:00 AM
   WBC
   8.0
   6.9
   13.8
   Hct
   30.9
   33.3
   29.1
   Plt
   147
   114
   102
   Cr
   1.6
   1.4
   1.3
   1.2
   1.1
   1.1
   Glucose
   75
   109
   98
   132
   146
   107
   Other labs: PT / PTT / INR:18.4/42.1/1.7, CK / CKMB / Troponin-T:90//,
   ALT / AST:30/50, Alk Phos / T Bili:103/4.5, Differential-Neuts:91.5 %,
   Band:0.0 %, Lymph:4.5 %, Mono:3.8 %, Eos:0.1 %, Fibrinogen:181 mg/dL,
   Albumin:2.0 g/dL, LDH:279 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Imaging: MR spine w/o: Degenerative changes from L1-2 to L5-S1 level
   with spinal
   stenosis as described above. No intraspinal fluid collection seen. Mild
   spinal stenosis is seen at L2-3 and moderate spinal stenosis at L3-4
   and L4-5.
   Foraminal changes as described above, predominantly on the right side
   at L3-4
   and L4-5 levels. Bilateral moderate foraminal narrowing is seen at
   L5-S1
   level.
   MR head w/o Limited study with only T1-weighted images obtained.
   Demonstrate
   no mass effect or hydrocephalus.
   Microbiology: BC [**6-21**] pending
   Parasite smear negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   49-year-old woman with shock, altered mental status, renal failure, and
   worsening hepatic failure.  Etiology of shock is not completely clear:
   hypovolemia, sepsis.  Now off pressors.
    # Possible infection: White count trending up *****
 Parasite smear negative
  spine (added c-spine per radiology) and head MRI final read negative
   .  since MS [**Last Name (Titles) 7449**], no LP
   - Consider MRCP
  ID following - ID recs Vanc/Cef/Acyclovir/Flagyll; ID would like
   cefepime 2g IV q12
   # Shock
 Aggressive trial of volume repletion, now stable off of pressures
 [**Last Name (un) 1398**] stim test negative (though unclear if this was adequate response
   for her given her current stress level); will start steroids if
   hypotensive*****
   . concern for drug overdose given brother
s history however neg tox at
   admission
   # Anemia
   .  By labs appears lysis, parasyte smear negative, given increase ldh,
   decrease in hapto more likely intravasc and not from spleen. possibly
   immune related?
   - sent thin and thick smear; further work-up depending on amount of
   schistocytes *****
   # Encephalopathy: improving
 Broad ddx including above, as well as liver
   # ?spinal process: MRI does not show anything concerning
   - no new neurosurg recs
   - will discuss pain meds with PCP
   #HIV
   -  ID consult- cont ARV
   - Will possibly transfer to ID/PCP's service
   HCV and alcoholic cirrhosis
   Lactulose, rifax
   Follow clinically for alcohol withdrawal
  B12, folate, thiamine
   - no new transplant recs
   ICU Care
   Nutrition:
   Comments: liquid
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2142-6-21**] 02:59 AM
   18 Gauge - [**2142-6-21**] 06:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2142-06-23 13:39:00 Physician Attending Progress Note
Chief Complaint: Altered mental status, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   mri not revealing for infectious source
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2142-6-22**] 09:30 AM
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-6-21**] 08:00 AM
   Ampicillin - [**2142-6-21**] 04:00 PM
   Vancomycin - [**2142-6-22**] 08:00 PM
   Cefipime - [**2142-6-23**] 04:00 AM
   Metronidazole - [**2142-6-23**] 04:30 AM
   Acyclovir - [**2142-6-23**] 08:22 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-6-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: No(t) Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2142-6-23**] 01:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 66 (55 - 72) bpm
   BP: 100/53(64) {82/35(50) - 117/94(107)} mmHg
   RR: 13 (10 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 9 (8 - 25)mmHg
   Total In:
                                                                  5,225 mL
                                                                  1,325 mL
   PO:
                                                                    520 mL
                                                                    840 mL
   TF:
   IVF:
                                                                  4,315 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    920 mL
   Urine:
                                                                  1,120 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,105 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   102 K/uL
   107 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.7 mEq/L
   20 mg/dL
   118 mEq/L
   141 mEq/L
   29.1 %
   13.8 K/uL
        [image002.jpg]
                             [**2142-6-21**]  06:26 AM
                             [**2142-6-21**]  03:00 PM
                             [**2142-6-21**]  05:15 PM
                             [**2142-6-21**]  10:24 PM
                             [**2142-6-22**]  02:52 AM
                             [**2142-6-23**]  04:00 AM
   WBC
   8.0
   6.9
   13.8
   Hct
   30.9
   33.3
   29.1
   Plt
   147
   114
   102
   Cr
   1.6
   1.4
   1.3
   1.2
   1.1
   1.1
   Glucose
   75
   109
   98
   132
   146
   107
   Other labs: PT / PTT / INR:18.4/42.1/1.7, CK / CKMB / Troponin-T:90//,
   ALT / AST:30/50, Alk Phos / T Bili:103/4.5, Differential-Neuts:91.5 %,
   Band:0.0 %, Lymph:4.5 %, Mono:3.8 %, Eos:0.1 %, Fibrinogen:181 mg/dL,
   Albumin:2.0 g/dL, LDH:279 IU/L, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   49 yo woman with HIV, presented to ICU with hypotension.  Probably
   hypovolemic shock, no infectious source identified.
   1. Hypotension: D/C antiobiotics, acyclovir.  BP stable, remove central
   venous line
   2. Anemia:  Checking hemolysis labs
   Disposition to the floor.
   All other issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2142-6-21**] 02:59 AM
   18 Gauge - [**2142-6-21**] 06:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor